US06803457B1
2-Benzyloxy-5-cyano-benzylamine
Triphenylphosphine (1.64 g, 6.24 mmol) was added to a solution of 2-benzyloxy-5-cyano-benzylazide (1.1 g, 4.16 mmol) in anhydrous THF (10 mL) at 0° C. After 1 hour, ammonium hydroxide (0.5 mL) was added and the mixture was warmed to room temperature and stirred overnight. The mixture was concentrated and the residue purified by flash chromatography (3% methanol/dichloromethane) to afford 677 mg (69%) of the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.6-7.3 (m, 7H); 6.95 (d, 1H, J=9.1 Hz); 5.18 (s, 2H); 3.9 (s, 2H).

reactant | Triphenylphosphine | 6.24 mmol, 1.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-benzyloxy-5-cyano-benzylazide | 4.16 mmol, 1.1 g | C(C1=CC=CC=C1)OC1=C(CN=[N+]=[N-])C=C(C=C1)C#N | C15H12N4O
reactant | ammonium hydroxide | 0.5 mL | [OH-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Benzyloxy-5-cyano-benzylamine | 677 mg, 69% | C(C1=CC=CC=C1)OC1=C(CN)C=C(C=C1)C#N | C15H14N2O
